US09108957B2
To a solution of 3-benzylamino-butan-1-ol (0.50 g, 2.8 mmol) and triethylamine (0.84 mL, 6.0 mmol) in dichloromethane was added chloroacetylchloride (0.26 mL, 3.3 mmol) at 0° C. and stirred for one hour. The reaction mixture was poured into 1N hydrochloric acid aqueous solution and extracted with ethyl acetate. The organic extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in 2-propanol (20 mL) and potassium hydroxide (0.66 g, 10 mmol) was added to the mixture at room temperature. After stirring for 18 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and concentrated. The residual material was purified by flash column chromatography on silica gel (hexane/ethyl acetate=100/0 to 1/1 as an eluant) to afford 4-benzyl-5-methyl-[1,4]oxazepan-3-one (0.32 g, 1.4 mmol, 52%) as yellow viscous oil.

reactant | 3-benzylamino-butan-1-ol | 2.8 mmol, 0.50 g | C(C1=CC=CC=C1)NC(CCO)C | C11H17NO
reactant | triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 3.3 mmol, 0.26 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | potassium hydroxide | 10 mmol, 0.66 g | [OH-].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-benzyl-5-methyl-[1,4]oxazepan-3-one | 1.4 mmol, 0.32 g, 52% | C(C1=CC=CC=C1)N1C(COCCC1C)=O | C13H17NO2
